US07906511B2
2-Amino-4-hydroxymethylpyrimidine (Reference Compound No. 4-1)
2-Amino-4-methoxycarbonylpyrimidine (3.0 g, 20 mmol, Reference Compound No. 3-1) was suspended in a mixture solvent of ethanol (150 mL) and dichloromethane (20 mL), then sodium borohydride (2.2 g, 59 mmol) was added thereto at room temperature, and the whole was stirred for 24 hours. Acetone (20 mL) was added gradually under ice-cooling, and then 2M hydrochloric acid was added until the bubbles were no longer formed. Saturated aqueous sodium hydrogencarbonate solution was added to adjust the pH of the reaction mixture to 8, and the precipitated solid was filtered out. The filtrate was concentrated under reduced pressure, then suspended in a 10% methanol-chloroform solution, and the mixture was filtered again with silica gel (5.0 g). The filtrate was evaporated under reduced pressure, the precipitated solid was filtered off with ethyl acetate, and dried under reduced pressure to give 1.8 g of the title Reference Compound as a pale yellow solid (Yield: 73%)

reactant | 2-Amino-4-methoxycarbonylpyrimidine | NC1=NC=CC(=N1)C(=O)OC | C6H7N3O2
reactant | sodium borohydride | 59 mmol, 2.2 g | [BH4-].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | Acetone | 20 mL | CC(=O)C | C3H6O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 2-Amino-4-hydroxymethylpyrimidine | Yield: 73% | NC1=NC=CC(=N1)CO | C5H7N3O
